US05308857
The mixture of 2-(furan-2-yl)acetamidine hydrochloride (30.0 g), methyl 2-acetylheptanoate (34.8 g) and sodium methoxide (10.1 g) in methanol (300 ml) was stirred for 4.5 hours at ambient temperature, and then the solvent was removed by concentration. To the residue was added a mixture of ethyl acetate and water, and the mixture was adjusted to pH 9 with 6N-hydrochloric acid. The separated organic layer was washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (19:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 2-(furan-2-ylmethyl)-6-methyl-5-n-pentyl-4(1H)pyrimidinone (18.18 g).

reactant | 2-(furan-2-yl)acetamidine hydrochloride | 30.0 g | Cl.O1C(=CC=C1)CC(=N)N
reactant | methyl 2-acetylheptanoate | 34.8 g | C(C)(=O)C(C(=O)OC)CCCCC | C10H18O3
reactant | sodium methoxide | 10.1 g | C[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 2-(furan-2-ylmethyl)-6-methyl-5-n-pentyl-4(1H)pyrimidinone | 18.18 g | O1C(=CC=C1)CC=1NC(=C(C(N1)=O)CCCCC)C | C15H20N2O2
